US09388177B2
(4-Bromo-3-methoxyphenyl)(3-fluoroazetidin-1-yl)methanone
To a stirred solution of 4-bromo-3-methoxybenzoic acid (1.4 g) in DMF (15 mL) was added potassium carbonate (2.51 g), 3-fluoroazetidine hydrochloride (1.01 g) and HATU (3.69 g). The mixture was stirred at room temperature for 18 h. Water was added, the mixture was stirred for 15 minutes and the solvent was removed in vacuum. Water was added and the mixture was extracted with ethyl acetate. The organic phase was washed with water, saturated sodium chloride solution, dried (sodium sulfate) and the solvent was removed in vacuum, to give 1.25 g of the title compound.

reactant | 4-bromo-3-methoxybenzoic acid | 1.4 g | BrC1=C(C=C(C(=O)O)C=C1)OC | C8H7BrO3
reactant | potassium carbonate | 2.51 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-fluoroazetidine hydrochloride | 1.01 g | Cl.FC1CNC1
reactant | HATU | 3.69 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | (4-Bromo-3-methoxyphenyl)(3-fluoroazetidin-1-yl)methanone | 1.25 g | BrC1=C(C=C(C=C1)C(=O)N1CC(C1)F)OC | C11H11BrFNO2
